US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared analogously to Example 1 by reacting 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane, triethylamine and 7-methoxy-2-methylamino-1,2,3,4-tetrahydronaphthalene. Mp: 189°-190° C. (decomp.).

reactant | 1-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 7-methoxy-2-methylamino-1,2,3,4-tetrahydronaphthalene | COC1=CC=C2CCC(CC2=C1)NC | C12H17NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-methyl-N-(7-methoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC(=CC=C3CC2)OC)C)=O)C=C1OC | C27H36N2O4
